US03966945
A solution of 6.8 g. of 2-(chloromethyl)pyrimidine is added dropwise to a solution of 5.2 g. of sodium cyanide in 100 ml. of dimethylsulfoxide. The mixture is heated at 50°C. for 2 hours, then diluted with 150 ml. of 5% aqueous sodium carbonate solution and extracted with ether. The extract is dried and concentrated to give 2-(2-pyrimidyl)acetonitrile.

reactant | 2-(chloromethyl)pyrimidine | ClCC1=NC=CC=N1 | C5H5ClN2
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-(2-pyrimidyl)acetonitrile | N1=C(N=CC=C1)CC#N | C6H5N3
